US04404356
This was prepared in a similar manner as the 5-chloro-2-hydroxyphenyl analogue, by fusing 2-amino-4-nitrophenol and urea to form 5-nitrobenzoxazolinone (m.pt. 215° C. after recrystallisation from acetone), and then heating with alcoholic dimethylamine as above: it was not recrystallised.

reactant | 2-amino-4-nitrophenol | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | urea | NC(=O)N | CH4N2O
product | 5-nitrobenzoxazolinone | [N+](=O)([O-])C=1C=CC2=C(NC(O2)=O)C1 | C7H4N2O4
